US09278983B2
To a pressure-resistant reaction container, N-methyl-(3-bromo-5-trifluoromethyl-pyridin-2-yl-amine (0.51 g), copper (II) acetylacetone (0.11 g), acetylacetone (0.20 g), cesium carbonate (1.30 g), NMP (2 ml), and 28% of aqueous ammonia (1 ml) were added, and stirred at 120° C. for 7 hours, then at 130° C. for 3 hours. The mixture was allowed to cool to room temperature, and then saturated aqueous ammonium chloride solution was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.28 g of N2-methyl-5-trifluoromethylpyridin-2,3-diamin.

reactant | 3-bromo-5-trifluoromethyl-pyridin-2-yl-amine | 0.51 g | BrC=1C(=NC=C(C1)C(F)(F)F)N | C6H4BrF3N2
reactant | acetylacetone | 0.20 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | cesium carbonate | 1.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonia | 1 ml | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | NMP | 2 ml | CN1CCCC1=O | C5H9NO
catalyst | copper (II) acetylacetone | 0.11 g | C(C)(=O)CC(C)=O.[Cu+2]
product | N2-methyl-5-trifluoromethylpyridin-2,3-diamin | 0.28 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
